US07517889B2
(b) 3-{6-[2-(3,4-Dimethoxy-phenyl)-ethylamino]-2-methylsulfanyl-pyrimidin-4-yl}-benzoic acid
By proceeding in a similar manner to Example 16(a) above but using commercially available 3-carboxy-phenyl-boronic acid, and (6-chloro-2-methylsulfanyl-pyrimidin-4-yl)-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine (0.57 g) in Step 2, and extracting the reaction mixture (adjusted to pH 2) with EtOAc followed by evaporation of the organic extract, there is prepared 3-{6-[2-(3,4-dimethoxy-phenyl)-ethylamino]-2-methylsulfanyl-pyrimidin-4-yl}-benzoic acid [0.48 g, Example 16(b)]. LCMS: RT=2.75 minutes, MS: 426 (M+H). IC50=243 nM

reactant | 3-carboxy-phenyl-boronic acid | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | (6-chloro-2-methylsulfanyl-pyrimidin-4-yl)-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine | 0.57 g | ClC1=CC(=NC(=N1)SC)NCCC1=CC(=C(C=C1)OC)OC | C15H18ClN3O2S
product | 3-{6-[2-(3,4-Dimethoxy-phenyl)-ethylamino]-2-methylsulfanyl-pyrimidin-4-yl}-benzoic acid | COC=1C=C(C=CC1OC)CCNC1=CC(=NC(=N1)SC)C=1C=C(C(=O)O)C=CC1 | C22H23N3O4S
